US04128716
4-[3-(Dimethylamino)propoxy]pyrazolo[1,5-a]quinoxaline-3-carboxylic acid, ethyl ester
A solution of 2.76 g. of 4-chloropyrazolo[1,5-a]quinoxaline-3-carboxylic acid, ethyl ester in benzene is added dropwise, at 10° to a stirred soluttion of 1.03 g. of 3-dimethylamino-1-propanol and 0.64 g. of butyl lithium in 30 ml. of benzene. The reaction mixture is heated under reflux for 3 hours and is then filtered and concentrated under reduced pressure. The oily residue is dissolved in petroleum ether, treated with carbon and cooled for 12 hours in the refrigerator. The product, 4-[3-(dimethylamino)propoxy]pyrazolo[1,5-a]quinoxaline-3-carboxylic acid, ethyl ester, crystallizes in the form of white needles, m.p. 78°-81°.

reactant | 4-chloropyrazolo[1,5-a]quinoxaline-3-carboxylic acid, ethyl ester | ClC=1C=2N(C3=CC=CC=C3N1)N=CC2C(=O)OCC | C13H10ClN3O2
reactant | 3-dimethylamino-1-propanol | CN(CCCO)C | C5H13NO
reactant | butyl lithium | C(CCC)[Li]
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 4-[3-(Dimethylamino)propoxy]pyrazolo[1,5-a]quinoxaline-3-carboxylic acid, ethyl ester | CN(CCCOC=1C=2N(C3=CC=CC=C3N1)N=CC2C(=O)OCC)C | C18H22N4O3
